US08791142B2
Step 1) tert-butyl 4-[(5-cyanopyridin-2-yl)amino]butanoate
A solution of 6-chloronicotinonitrile (1.0 g, 7.2 mmol), 4-aminobutyric acid tert-butyl ester hydrochloride (2.12 g, 10.8 mmol, Sennchem 09600) and DIEA (4.9 mL, 28.9 mmol) in anhydrous dioxane (20 mL) was heated at 80° C. After 48 hours, an additional amount of 4-aminobutyric acid tert-butyl ester hydrochloride (0.55 g, 2.80 mmol) was added. After 24 additional hours at 80° C., the reaction mixture was diluted with Et2O (100 mL) and washed with water (2×50 mL) and brine (50 mL). The organic layer was dried (MgSO4) and the solvents were removed under reduced pressure. After purification by flash chromatography (silica, EtOAc/cHex), the title compound was obtained as a beige powder. HPLC (Method A), Rt: 3.3 min (purity: 91%). UPLC/MS, M+(ESI): 262.1, M−(ESI): 260.2. 1H NMR (DMSO-d6, 300 MHz) δ 8.37 (d, J=2.2 Hz, 1H), 7.63 (m, 2H), 6.52 (d, J=8.9 Hz, 1H), 3.29 (m, 2H), 2.26 (t, J=7.4 Hz, 2H), 1.73 (tt, J=7.4, 7.0 Hz, 2H), 1.38 (s, 9H).

reactant | 6-chloronicotinonitrile | 7.2 mmol, 1.0 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 4-aminobutyric acid tert-butyl ester hydrochloride | 10.8 mmol, 2.12 g | Cl.C(C)(C)(C)OC(CCCN)=O
reactant | DIEA | 28.9 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-aminobutyric acid tert-butyl ester hydrochloride | 2.80 mmol, 0.55 g | Cl.C(C)(C)(C)OC(CCCN)=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | tert-butyl 4-[(5-cyanopyridin-2-yl)amino]butanoate | C(#N)C=1C=CC(=NC1)NCCCC(=O)OC(C)(C)C | C14H19N3O2
